US04051152
9-Acetoxy-4,4-dimethyl-7-(1,2-dimethylheptyl)-1,2,3,4-tetrahydrocyclopenta[ c][l]benzopyran
A solution of 4,4-dimethyl-9-hydroxy-7-(1,2-dimethylheptyl)-1,2,3,4-tetrahydrocyclopenta[ c][l]benzopyran (6.85 g., 0.02 mole) and acetic anhydride (3.06 g., 0.03 mole) in 20 ml. of pyridine was warmed over a steam bath with stirring for 2 hours. The reaction mixture was allowed to cool to room temperature and the pyridine was removed by evaporation under reduced pressure. Water was added to the residue and this aqueous mixture was extracted with three portions of ether. The ether extracts were washed several times with water, 6N HCl, again with water, and dried over Na2SO4. Solvent evaporation in vacuo left 7.59 g. (99%) of crude acetate. The ir and nmr were in agreement with the proposed structure.

reactant | 4,4-dimethyl-9-hydroxy-7-(1,2-dimethylheptyl)-1,2,3,4-tetrahydrocyclopenta[ c][l]benzopyran | 0.02 mole, 6.85 g | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C(CCCCC)C)C)O)C | C23H34O2
reactant | acetic anhydride | 0.03 mole, 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-Acetoxy-4,4-dimethyl-7-(1,2-dimethylheptyl)-1,2,3,4-tetrahydrocyclopenta[ c][l]benzopyran | C(C)(=O)OC1=CC(=CC2=C1C1=C(C(O2)(C)C)CCC1)C(C(CCCCC)C)C | C25H36O3
